US05565485
Step A: Preparation of ethyl α-(2-iso-butyl-4-carbomethoxy-phenoxy)-3,4-methylenedioxyphenylacetate
To a solution of 1.008 g (4.84 mmol) of methyl 3-iso-butyl-4-hydroxybenzoate and 1.737 g (6.05 mmol) of ethyl α-bromo-3,4-methylenedioxyphenylacetate in 10 mL of acetone was added 1.338 g (10 mmol) of finely powdered potassium carbonate. The reaction mixture was magnetically stirred and refluxed for 4 hours, then cooled to room temperature, filtered and evaporated. The residue was purified on a silica gel flash chromatography column eluted with 10% EtOAc-hexane; combination of the purified fractions and drying in vacuo afforded 1.518 g (76%) of the title compound as an amorphous powder.

reactant | methyl 3-iso-butyl-4-hydroxybenzoate | 4.84 mmol, 1.008 g | C(C(C)C)C=1C=C(C(=O)OC)C=CC1O | C12H16O3
reactant | ethyl α-bromo-3,4-methylenedioxyphenylacetate | 6.05 mmol, 1.737 g | BrC(C(=O)OCC)C1=CC2=C(C=C1)OCO2 | C11H11BrO4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | ethyl α-(2-iso-butyl-4-carbomethoxy-phenoxy)-3,4-methylenedioxyphenylacetate | 1.518 g, 76% | C(C(C)C)C1=C(OC(C(=O)OCC)C2=CC3=C(C=C2)OCO3)C=CC(=C1)C(=O)OC | C23H26O7
